US06897224B2
4-Methyl-1-(2-methylquinolin-5-ylamino)-4-phenyl-2-(trifluoromethyl)pentan-2-ol
Analogously to Example 1, 500 mg (2.05 mmol) of 2-(2-methyl-2-phenylpropyl)-2-(trifluoromethyl)oxirane and 650 mg (4.10 mmol) of 5-amino-2-methylquinoline are reacted. After chromatography on silica gel with hexane-ethyl acetate (0-70%), 485 mg of product is obtained.

reactant | 2-(2-methyl-2-phenylpropyl)-2-(trifluoromethyl)oxirane | 2.05 mmol, 500 mg | CC(CC1(OC1)C(F)(F)F)(C)C1=CC=CC=C1 | C13H15F3O
reactant | 5-amino-2-methylquinoline | 4.10 mmol, 650 mg | NC1=C2C=CC(=NC2=CC=C1)C | C10H10N2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 4-Methyl-1-(2-methylquinolin-5-ylamino)-4-phenyl-2-(trifluoromethyl)pentan-2-ol | 485 mg | CC(CC(CNC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F)(C)C1=CC=CC=C1 | C23H25F3N2O
